### PR TITLE
linUCB

### PR DESCRIPTION
**Pull request by FawadHa1der**
first part of the formalizing linUCB. This PR implements the algorithm basics.

### CODE REVIEW

File: LeanMachineLearning/Online/Bandit/Algorithms/LinUCB.lean [hunk 1]
```diff
@@ -0,0 +1,230 @@
+/-
+Copyright (c) 2026. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: OpenAI, Fawad Haider
```
Comment (RemyDegenne) [inline LeanMachineLearning/Online/Bandit/Algorithms/LinUCB.lean:4]: Can you clarify what you mean by writing `OpenAI` here?

Comment (FawadHa1der) [reply LeanMachineLearning/Online/Bandit/Algorithms/LinUCB.lean:4]: It was directed by me and trying to follow the template of UCB.lean but some AI assistance was used

File: LeanMachineLearning/Online/Bandit/Algorithms/LinUCB.lean [hunk 2]
```diff
@@ -0,0 +1,280 @@
...
+  exact fun n hn ↦ index_le_index_arm h a hn
+
+end AlgorithmBehavior
+
+omit [IsMarkovKernel ν] in
+/-- If the LinUCB confidence inequalities hold for a comparator arm and the selected arm, and the
+selected arm has maximal LinUCB index, then instantaneous regret is controlled by the selected
+arm's LinUCB width. -/
+lemma mean_sub_mean_arm_le_two_mul_width (a : Fin K)
+    (h_best : (ν a)[id] ≤ index A R reg β x a n ω)
```
Comment (FawadHa1der) [inline LeanMachineLearning/Online/Bandit/Algorithms/LinUCB.lean]: there are some assumptions h_best and h_arm. Should I try to remove them? @RemyDegenne

Comment (RemyDegenne) [reply LeanMachineLearning/Online/Bandit/Algorithms/LinUCB.lean]: Well they can be fine in this lemma, but later you will want to use concentration inequalities to deal with the cases where those assumptions don't hold.

Comment (FawadHa1der) [reply LeanMachineLearning/Online/Bandit/Algorithms/LinUCB.lean]: About to get to the Elliptical Potential Lemma. (19.4 from the book). I will add it to the linUCB.lean file but it seems like the lemma is used in more places than just linear bandits, not sure if there is a more general/appropriate place for it.

**Comment by FawadHa1der** [comment]
@RemyDegenne any input on the PR.

File: LeanMachineLearning/Online/Bandit/Algorithms/LinUCB/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,317 @@
...
+namespace Bandits
+
+variable {K d : ℕ}
+
+section Algorithm
+
+namespace LinUCB
+
+/-- Feature vectors for finite-dimensional linear bandits. -/
+abbrev Feature (d : ℕ) := Fin d → ℝ
```
Comment (RemyDegenne) [inline LeanMachineLearning/Online/Bandit/Algorithms/LinUCB/Basic.lean]: To work with R^d and its scalar product, `Fin d → ℝ` is not the right type. This is why you need many definitions for the squared norm, etc.
You should use `EuclideanSpace ℝ (Fin d)`. It comes with a scalar product and with the right norm.

File: LeanMachineLearning/Online/Bandit/Algorithms/LinUCB/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,317 @@
...
+
+/-- The standard coordinate direction in `Feature d`. -/
+def coordinateDirection (i : Fin d) : Feature d :=
```
Comment (RemyDegenne) [inline LeanMachineLearning/Online/Bandit/Algorithms/LinUCB/Basic.lean]: You could use [EuclideanSpace.single](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/InnerProductSpace/PiL2.html#EuclideanSpace.single) instead of this.

File: LeanMachineLearning/Online/Bandit/Algorithms/LinUCB/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,317 @@
...
+    simp at hi
+
+/-- Dot product with the negative coordinate direction extracts the negated coordinate. -/
+lemma dotProduct_neg_coordinateDirection (u : Feature d) (i : Fin d) :
+    dotProduct (-coordinateDirection i) u = -u i := by
+  rw [neg_dotProduct, dotProduct_coordinateDirection]
+
+/-- Squared Euclidean norm of a finite-action feature vector, written as the dot product
+`x_aᵀ x_a`. -/
+def featureSqNorm (x : Fin K → Feature d) (a : Fin K) : ℝ :=
```
Comment (RemyDegenne) [inline LeanMachineLearning/Online/Bandit/Algorithms/LinUCB/Basic.lean]: You don't need a definition for the squared norm. In the EuclideanSpace type you can just write `‖x a‖ ^ 2`.

**Comment by FawadHa1der** [comment]
Apologies for being a tad late. I have started to use Euclideans space as suggested.
